US07479575B2
c) Step 3: Synthesis of 1-bromo4-[(4-butylphenyl) ethynyl] benzene (VIIe)
To a 1 L flask containing a solution of 1-bromo-4-[(Z) -2-chloro-2-(4-butyl-phenyl) vinyl] benzene (VIe) (100 g; 0.285 mol) in 1,4-dioxane (500 mL; 5 vols) and MeOH (200 mL; 2vols), KOH (32 g; 0.571 mol) was added in one portion. Protocol and work-up was then similar with those described above. Title compound (m=80 g) was obtained in a 89% yield. Melting point: 75.6-76.1° C.

reactant | 1-bromo-4-[(Z) -2-chloro-2-(4-butyl-phenyl) vinyl] benzene | 0.285 mol, 100 g | BrC1=CC=C(C=C1)\C=C(\C1=CC=C(C=C1)CCCC)/Cl | C18H18BrCl
reactant | KOH | 0.571 mol, 32 g | [OH-].[K+]
solvent | 1,4-dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
product | 1-bromo4-[(4-butylphenyl) ethynyl] benzene | 80 g, 89% yield | BrC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC | C18H17Br
